US09382188B2
H) (3-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)phenoxy)acetic acid
To a solution of ethyl 2-(3-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)phenoxy)acetate (77 mg) in THF (3.0 mL) and methanol (3.0 mL) was added 1N aqueous sodium hydroxide solution (1.0 mL), and the mixture was stirred at 50° C. for 30 min. To the reaction mixture was added 1N hydrochloric acid (1.0 mL), and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (63 mg) as a colorless oil.

reactant | ethyl 2-(3-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)phenoxy)acetate | 77 mg | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)OCC=1C=C(OCC(=O)OCC)C=CC1 | C28H32FNO5
reactant | sodium hydroxide | 1N, 1.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.0 mL | Cl | ClH
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 3.0 mL | CO | CH4O
product | (3-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)phenoxy)acetic acid | 63 mg | CC(CC1=C(C=CC(=N1)OCC=1C=C(OCC(=O)O)C=CC1)C1=C(C=CC(=C1)OC)F)(C)C | C26H28FNO5
